US07238808B2
5-[7-Methyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide
The title compound was prepared from 3-ethynyl-7-methyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.12) (75 mg, 0.25 mmol) and 5-bromo-thiophene-2-sulfonic acid amide (61 mg, 0.25 mmol) according to general procedure II. Obtained as a yellow solid (33 mg, 28%). MS (ISN) 461.0 [(M−H)−]; mp 214–215° C.

reactant | 3-ethynyl-7-methyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 75 mg | C(#C)C=1C=NN2C1N=C(C=C2C)C2=CC=C(C=C2)C(F)(F)F | C16H10F3N3
reactant | 5-bromo-thiophene-2-sulfonic acid amide | 0.25 mmol, 61 mg | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
product | 5-[7-Methyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide | CC1=CC(=NC=2N1N=CC2C#CC2=CC=C(S2)S(=O)(=O)N)C2=CC=C(C=C2)C(F)(F)F | C20H13F3N4O2S2
